US08022062B2
To a 4:1 mixture of 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine (108 mg, 0.281 mmol) in methanol (3 ml), add potassium hydroxide pellets (504 mg, 9.0 mmol) and heat the mixture 2 h at 50° C. Cool the reaction to ambient temperature, add 2-chloromethylthiophene (186 μL, 1.406 mmol), and continue stirring for 30 min. Dilute with EtOAc and water. Separate the layers and extract the aqueous layer three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (19:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(thiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-benzo[d]azepine as a colorless oil (36 mg, 31%).

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 3-tert-butoxycarbonyl-7,9-dichloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-benzo[d]azepine | 0.281 mmol, 108 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2Cl)Cl)SC(N(C)C)=O | C18H24Cl2N2O3S
reactant | potassium hydroxide | [OH-].[K+]
reactant | 2-chloromethylthiophene | 1.406 mmol, 186 μL | ClCC=1SC=CC1 | C5H5ClS
solvent | methanol | 3 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 3-tert-butoxycarbonyl-7-chloro-6-(thiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-benzo[d]azepine | 36 mg, 31% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2SC=CC2 | C20H24ClNO2S2
